Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.91441907793
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.34227325146
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],5.4071379547300005
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.4510951184900005
[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1]=[C:2][O:3]/[C:4]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],5.07818671117
[C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-5.39506287278
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11].[O:1],3.81542891319
[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1],6.65495059656
[C:1].[C:2]([H:3])([H:4])=[C:5][O:6][H:7]>>[C:1][C:2]([H:3])([H:4])[C:5][O:6][H:7],-2.3102922076400003
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]=[O:3],0.832475252491
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12][H:13],4.977388724680001
[H:1][C:2]#[C:3][C:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]#[C:3][C:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.29720836557
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7],5.14311152344
[C:5]([H:6])([H:7])[H:8].[H:1]/[C:2]([O:3][C:4])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-3.55866620568
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7],4.11663989355
[H:1][C:2]=[C:3]([C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:11]([H:12])([H:13])[H:14],1.6409914338999998
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.19652357745
[H:1][C:2](=[C:3]=[O:4])[C:8](=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]1[C:9]([H:10])([H:11])[H:12],1.67479848027
[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.26162403653
[C:9][C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13],-4.4550961635
[H:1][C:2]=[C:3]1[O:4][O:5][C:6]1([H:7])[H:8]>>[H:1][C:2]#[C:3][C:6]([O:5][O:4])([H:7])[H:8],-0.63898470985
[C:4]([H:5])[H:6].[H:1][O:2]/[C:3]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.561305742080001
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.95602597706
[C:1]#[C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]1[O:3][C@@:4]1([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-0.52031353758
[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])=[C:5]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2],6.86423224738
[C:1]#[C:2][O:3][H:4].[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10],-2.49318691287
[H:11].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.9810459572
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.80611404865
